US06977260B2
Sodium borohydride (10 mg, 0.26 mmol) followed by EtOH (0.25 mL) was added to a solution of (4-{(R)-2-[(E)-4-(3-chlorophenyl)-3-oxo-but-1-enyl]-6-oxo -piperidin-1-yl}-butoxy)-acetic acid ethyl ester (110 mg, 0.25 mmol) in CH2Cl2 (1.0 mL) at 0° C. After 1 h at 0° C. the reaction was quenched with 1 N aqueous HCl. The reaction mixture was extracted with CH2Cl2 (3×10 mL), then the combined extracts were dried (Na2SO4), filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (CH2Cl2 →2% MeOH/CH2Cl2) afforded 88 mg (80%) of (4-{(R)-2-[(E)-4-(3-chlorophenyl)-3-hydroxy-but-1-enyl]-6-oxo-piperidin-1-yl}-butoxy)-acetic acid ethyl ester.

reactant | Sodium borohydride | 0.26 mmol, 10 mg | [BH4-].[Na+]
reactant | EtOH | 0.25 mL | CCO | C2H6O
reactant | (4-{(R)-2-[(E)-4-(3-chlorophenyl)-3-oxo-but-1-enyl]-6-oxo -piperidin-1-yl}-butoxy)-acetic acid ethyl ester | 0.25 mmol, 110 mg | C(C)OC(COCCCCN1[C@H](CCCC1=O)\C=C\C(CC1=CC(=CC=C1)Cl)=O)=O | C23H30ClNO5
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | (4-{(R)-2-[(E)-4-(3-chlorophenyl)-3-hydroxy-but-1-enyl]-6-oxo-piperidin-1-yl}-butoxy)-acetic acid ethyl ester | 88 mg, 80% | C(C)OC(COCCCCN1[C@H](CCCC1=O)\C=C\C(CC1=CC(=CC=C1)Cl)O)=O | C23H32ClNO5
